US07358376B2
a) 2-Cyano-3-benzyl-but-2-enoic acid amide (E/Z mixture)
A mixture of (phenyl)acetone (5 g), cyanoacetamide (3.15 g), ammonium acetate (0.29 g) and acetic acid (0.45 mL) was refluxed in toluene (50 mL) using a Dean and Stark head to remove water for 6 h. The mixture was cooled and the crystalline product was filtered off (3 g) and used without further purification.

reactant | (phenyl)acetone | 5 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | cyanoacetamide | 3.15 g | C(#N)CC(=O)N | C3H4N2O
reactant | ammonium acetate | 0.29 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 0.45 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-3-benzyl-but-2-enoic acid amide | C(#N)C(C(=O)N)=C(C)CC1=CC=CC=C1 | C12H12N2O
